US07906517B2
(2-Aminomethyl-4-trifluoromethyl-phenyl)-(3,5-bis-trifluoromethyl-benzyl)-ethyl-amine (165 mg) is dissolved in toluene (3 ml) and thereto are added tert-butyl 4-(2-chloro-pyrimidin-5-yloxy)-butyrate (202 mg), tris(dibenzylideneacetone)dipalladium(0) (68 mg), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (92 mg) and sodium tert-butoxide (71 mg), and the mixture is stirred under nitrogen flow at 80° C. for 5 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=7:1) to give tert-butyl 4-(2-{2-[(3,5-bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzylamino}-pyrimidin-5-yloxy)-butyrate (73 mg). MS (m/z): 681 [M+H]+

reactant | (2-Aminomethyl-4-trifluoromethyl-phenyl)-(3,5-bis-trifluoromethyl-benzyl)-ethyl-amine | 165 mg | NCC1=C(C=CC(=C1)C(F)(F)F)N(CC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H17F9N2
reactant | tert-butyl 4-(2-chloro-pyrimidin-5-yloxy)-butyrate | 202 mg | ClC1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C | C12H17ClN2O3
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 92 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 71 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(2-{2-[(3,5-bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzylamino}-pyrimidin-5-yloxy)-butyrate | 73 mg | FC(C=1C=C(CN(C2=C(CNC3=NC=C(C=N3)OCCCC(=O)OC(C)(C)C)C=C(C=C2)C(F)(F)F)CC)C=C(C1)C(F)(F)F)(F)F | C31H33F9N4O3
